US03995042
2-Amino-1-[[(o-bromophenyl)thio]methyl]pyridinium chloride
to a solution of 14.1 g of 2-aminopyridine in 180 ml of xylene is added a solution of 24.0 g of o-bromophenyl chloromethyl sulfide in 40 ml of xylene. The mixture is heated at 90°-95° for about fifteen hours to give about 27.3 g of the named compound, mp about 199°-201°.

reactant | 2-aminopyridine | 14.1 g | NC1=NC=CC=C1 | C5H6N2
reactant | o-bromophenyl chloromethyl sulfide | 24.0 g | ClCSC1=C(C=CC=C1)Br | C7H6BrClS
solvent | xylene | 180 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Amino-1-[[(o-bromophenyl)thio]methyl]pyridinium chloride | about 27.3 g | [Cl-].NC1=[N+](C=CC=C1)CSC1=C(C=CC=C1)Br | InChI=1S/C12H11BrN2S.ClH/c13-10-5-1-2-6-11(10)16-9-15-8-4-3-7-12(15)14;/h1-8,14H,9H2;1H
